US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(tert-butyl)-4-(chloromethylene)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbo-nyl chloride, and tert-butylamine the title compound was obtained in 80% purity by LC/MS. MS(ESI+): m/z=397.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | [1,1′-biphenyl]-4-carbo-nyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(tert-butyl)-4-(chloromethylene)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=CCl)C(=O)NC(C)(C)C)C1=CC=CC=C1 | C23H25ClN2O2
